US07960567B2
Methyl 2-(3-chloro-4-(2-methyl-6-nitro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate (21.3).
Under an N2 atmosphere, 2-(3-Chloro-4-(2-methyl-6-nitro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid (0.376 g, 0.764 mmol) was dissolved in DMF (3 mL). Cesium carbonate (0.274 g, 0.841 mmol) was added and the reaction was stirred at room temperature for 5 min. Iodomethane (0.052 mL, 0.841 mmol) was added and the reaction was allowed to stir at room temperature for 16 h. The reaction was diluted with diethyl ether and washed with water. The layers were separated and the aqueous layer was washed with additional diethyl ether. The organics were combined, dried (Na2SO4), filtered and concentrated in vacuo. Flash column chromatography of the residue, eluting with 10% to 30% isopropanol in hexanes, afforded the title compound. LC-MS ESI (pos.) m/z: 506.0 (M+H).

reactant | 2-(3-Chloro-4-(2-methyl-6-nitro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid | 0.764 mmol, 0.376 g | ClC=1C=C(C=CC1OC1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C=C1[N+](=O)[O-])CC(=O)O | C22H26ClN3O6Si
reactant | Cesium carbonate | 0.841 mmol, 0.274 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Iodomethane | 0.841 mmol, 0.052 mL | IC | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 2-(3-chloro-4-(2-methyl-6-nitro-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-benzo[d]imidazol-5-yloxy)phenyl)acetate | ClC=1C=C(C=CC1OC1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C=C1[N+](=O)[O-])CC(=O)OC | C23H28ClN3O6Si
